US04107313
Alternatively, 4-(heptylamino)pyridine was prepared as follows: A mixture containing 229 g. (1.0 mole) of N-(4-pyridyl)pyridinium chloride hydrochloride and 228 g. (1.5 moles) of n-heptylamine hydrochloride was heated 2 hours with stirring in an oil bath at a bath temperature of 215° C. The reaction mixture was cooled to 80° C., diluted with icewater, made alkaline with 35% aqueous sodium hydroxide and extracted successively with ether and chloroform. The organic extracts were combined and evaporated to dryness under reduced pressure. The residual viscous oil was dissolved in ether and the ethereal solution was washed with water. The aqueous wash was back-extracted with chloroform and the chloroform extracts were combined with the ethereal solution. The combined organic solutions were dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. Cooling the residual oil to -78° C. effected partial solidification. The semi-sold was diluted with a small amount of ether and filtered. The solid so-obtained was dissolved in a mixture of acetonitrile and chloroform, the resulting solution treated with decolorizing carbon, filtered, and the filtrate evaporated to dryness under reduced pressure. The resulting semi-solid was diluted with a small amount of ether and cooled. The solid thus-produced was collected by filtration and washed with a small volume of cold ether to give, after drying, 84.6 g. of 4-(heptylamino)pyridine, m.p. 50°-52° C.

reactant | N-(4-pyridyl)pyridinium chloride hydrochloride | 1.0 mole | Cl.[Cl-].N1=CC=C(C=C1)[N+]1=CC=CC=C1
reactant | n-heptylamine hydrochloride | 1.5 moles | Cl.C(CCCCCC)N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(heptylamino)pyridine | C(CCCCCC)NC1=CC=NC=C1 | C12H20N2
